US06441004B1
Ethyl 4-aminoindole-2-carboxylate
Ethyl 4-nitroindole-2-carboxylate (2.3 g) and 10% palladium on carbon (0.5 g) in ethanol (400 ml) were stirred under a hydrogen atmosphere for 3 hours. The reaction was then filtered through Celite and concentrated to give the end product as a pale brown solid (1.4 g, 70%); NMR δ(CD3SOCD3) 1.3 (t, 3H), 4.3 (q, 2H), 5.4 (s, 2H), 6.1 (d, 1H), 6.6 (d, 1H), 6.9 (dd, 1H), 7.3 (s, 1H), 11.4 (bs, 1H); M/z (+) 205 (MH+).

reactant | Ethyl 4-nitroindole-2-carboxylate | 2.3 g | [N+](=O)([O-])C1=C2C=C(NC2=CC=C1)C(=O)OCC | C11H10N2O4
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | Ethyl 4-aminoindole-2-carboxylate | 1.4 g, 70% | NC1=C2C=C(NC2=CC=C1)C(=O)OCC | C11H12N2O2
